US05470896
In a 250 ml round-bottomed flask having a magnetic stirrer and reflux condenser, 12.3 g (0.052 mol) of calcium nitrate tetrahydrate are dissolved in 88.7 g of 1-butanol, and then 31.55 g (0.104 mol) of potassium (2,4,6-tris(dimethylaminomethyl)phenolate) (prepared in the same manner as the sodium salt according to Example 19) are added. The solution is stirred at reflux for 1 hour and then cooled. The precipitated potassium nitrate is filtered off. A clear, yellow 25% accelerator solution of calcium bis(2,4,6-tris-(dimethylaminomethyl)phenolate) in 1-butanol is obtained.

reactant | calcium nitrate tetrahydrate | 0.052 mol, 12.3 g | O.O.O.O.[N+](=O)([O-])[O-].[Ca+2].[N+](=O)([O-])[O-]
reactant | potassium (2,4,6-tris(dimethylaminomethyl)phenolate) | 0.104 mol, 31.55 g | CN(C)CC1=C(C(=CC(=C1)CN(C)C)CN(C)C)[O-].[K+]
reactant | sodium | [Na] | Na
solvent | 1-butanol | 88.7 g | C(CCC)O | C4H10O
product | calcium bis(2,4,6-tris-(dimethylaminomethyl)phenolate) | CN(C)CC1=C(C(=CC(=C1)CN(C)C)CN(C)C)[O-].CN(C)CC1=C(C(=CC(=C1)CN(C)C)CN(C)C)[O-].[Ca+2] | InChI=1S/2C15H27N3O.Ca/c2*1-16(2)9-12-7-13(10-17(3)4)15(19)14(8-12)11-18(5)6;/h2*7-8,19H,9-11H2,1-6H3;/q;;+2/p-2
